### PR TITLE
[Merged by Bors] - feat(NumberField/CanonicalEmbedding/FundamentalCone): Prove equivalence with principal ideals

### PR DESCRIPTION
**Pull request by xroblot**
We prove that there is an equiv between the nonzero integral points in the fundamental cone and the nonzero integral ideals of `K` and that this equiv preserves norm. 

This PR is part of the proof of the Analytic Class Number Formula. 

---

- [x] depends on: #12268 
- [x] depends on: #12780
- [x] depends on: #16921

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean [hunk 1]
```diff
@@ -262,8 +271,10 @@ theorem integralPoint_ne_zero (a : integralPoint K) :  (a : mixedSpace K) ≠ 0
 
 open scoped nonZeroDivisors
 
-/-- For `a : integralPoint K`, the unique nonzero algebraic integer whose image by
-`mixedEmbedding` is equal to `a`, see `mixedEmbedding_preimageOfIntegralPoint`. -/
+/-- For `a : fundamentalCone K`, the unique nonzero algebraic integer `x` which image by
+`mixedEmbedding` is equal to `a`. Note that we state the fact that `x ≠ 0` by saying that `x` is
+a nonzero divisors since we will use later on the isomorphism
+`Ideal.associatesNonZeroDivisorsEquivIsPrincipal`, see `integralPointEquiv`. -/
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:277]:
```suggestion
/-- For `a : fundamentalCone K`, the unique nonzero algebraic integer `x` such that its image by
`mixedEmbedding` is equal to `a`. Note that we state the fact that `x ≠ 0` by saying that `x` is
a nonzero divisors since we will use later on the isomorphism
`Ideal.associatesNonZeroDivisorsEquivIsPrincipal`, see `integralPointEquiv`. -/
```
I am not 100% this is better in English, feel free to find a native speaker :)

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean [hunk 2]
```diff
@@ -330,6 +341,163 @@ def quotIntNorm :
...
+subgroup of torsion, we get the equivalence `integralPointQuotEquivAssociates`. -/
+def integralPointToAssociates (a : integralPoint K) : Associates (𝓞 K)⁰ :=
+  ⟦preimageOfIntegralPoint a⟧
+
+@[simp]
+theorem integralPointToAssociates_apply (a : integralPoint K) :
+    integralPointToAssociates K a = ⟦preimageOfIntegralPoint a⟧ := rfl
+
+variable (K) in
+theorem integralPointToAssociates_surjective :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:356]: If this is the only place where you need `K` explicit in `integralPointToAssociates` we can maybe make it implicit and use `(K := K)` here.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean [hunk 3]
```diff
@@ -330,6 +341,163 @@ def quotIntNorm :
...
+        · ext a b
+          rw [Setoid.ker_def, eq_comm, integralPointToAssociates_eq_iff b a,
+            MulAction.orbitRel_apply, MulAction.mem_orbit_iff],
+        (Quot.surjective_lift _).mpr (integralPointToAssociates_surjective K)⟩
+
+@[simp]
+theorem integralPointQuotEquivAssociates_apply (a : integralPoint K) :
+    integralPointQuotEquivAssociates K ⟦a⟧ = ⟦preimageOfIntegralPoint a⟧ := rfl
+
+theorem integralPoint_torsionSMul_stabilizer {a : integralPoint K} :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:398]: Maybe `a` explicit?

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean [hunk 4]
```diff
@@ -330,6 +341,163 @@ def quotIntNorm :
...
+      Equiv.prodCongrLeft fun _ ↦ (Equiv.subtypeSubtypeEquivSubtypeInter
+        (fun I : (Ideal (𝓞 K))⁰ ↦ IsPrincipal I.1) (fun I ↦ absNorm I.1 = n))
+
+@[simp]
+theorem integralPointEquivNorm_apply_fst {n : ℕ} {a : integralPoint K} (ha : intNorm a = n) :
+    ((integralPointEquivNorm K n ⟨a, ha⟩).1 : Ideal (𝓞 K)) =
+      span {(preimageOfIntegralPoint a : 𝓞 K)} := by
+  simp_rw [← associatesNonZeroDivisorsEquivIsPrincipal_apply,
+    ← integralPointQuotEquivAssociates_apply]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:455]: Is it possible to use a `rw` here? Don't worry if it is painful.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:356]: No, it is needed for `K` to be explicit also in some proofs

Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:356]: Ok no problem.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean]: I can get rid of the `rw` if I add a bunch of `apply` lemmas either directly or using `@[simps]`. I don't know if this is a better solution...

Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean]: Let's keep as it is then.

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean]: Well, actually, I could get rid of the `rfl` in a more direct way.
